US09403801B2
Step 1) 1-(cyclopropylmethyl)-4-nitro-1H-pyrazole
To a solution of 4-nitro-1H-pyrazole (5.05 g, 44.7 mmol) in N,N-dimethylformamide (250 mL) was added sodium hydride (2.7 g, 68 mmol, 60% mineral oil suspension) at 0° C. in portions and then followed by bromomethylcyclopropane (6.5 mL, 67 mmol) dropwise at same temperature. The mixture was stirred at room temperature for 4 h and diluted with water (300 mL) and extracted with EtOAc (300 mL×3). The combined organic phases were washed with brine (500 mL), dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/PE (v/v)=1/50 to 1/20) to give the product as yellow oil (7.38 g, 98.9%).

reactant | 4-nitro-1H-pyrazole | 44.7 mmol, 5.05 g | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
reactant | sodium hydride | 68 mmol, 2.7 g | [H-].[Na+]
reactant | bromomethylcyclopropane | 67 mmol, 6.5 mL | BrCC1CC1 | C4H7Br
solvent | N,N-dimethylformamide | 250 mL | CN(C=O)C | C3H7NO
solvent | water | 300 mL | O | H2O
product | 1-(cyclopropylmethyl)-4-nitro-1H-pyrazole | 7.38 g, 98.9% | C1(CC1)CN1N=CC(=C1)[N+](=O)[O-] | C7H9N3O2
